### PR TITLE
feat(Paper): Add latin square conjectures

### LINKED ISSUE #2270: Every odd-order Latin square has a transversal
### What is the conjecture

 A **Latin square** of order $n$ is an $n \times n$ array filled with $n$ different symbols such that each symbol appears exactly once in each row and exactly once in each column.

A **transversal** in a Latin square is a set of $n$ cells, one from each row and one from each column, such that the $n$ symbols in these cells are all distinct (i.e., form the complete set of symbols $\{1, 2, \ldots, n\}$).

**Ryser** conjectured that: Every Latin square of odd order has at least one transversal.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Problems_in_Latin_squares | https://users.monash.edu.au/~iwanless/papers/transurveyBCC.pdf | https://arxiv.org/abs/1801.02893

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-02-12)

Building blocks (1-3; from search results):
- Finite matrix/array types (readily available in Mathlib)
- Set operations and distinctness predicates
- Permutation theory (Mathlib has good coverage)

Missing pieces (exactly 2; unclear/absent from search results):
- Definition of Latin square as a formal structure (not in standard Mathlib)
- Definition of transversal property in the formal language

Rating justification (1-2 sentences): While basic combinatorial structures exist in Mathlib, the specific definitions of Latin squares and transversals require bespoke formalization. Once these definitions are in place, the statement itself is straightforward to express, requiring moderate infrastructure beyond basic set theory.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### LINKED ISSUE #2271: Brualdi-Stein Conjecture: Every Latin square has a near-transversal
### What is the conjecture

 A **Latin square** of order $n$ is an $n \times n$ array filled with $n$ different symbols such that each symbol appears exactly once in each row and exactly once in each column.

A **partial transversal** of size $k$ in a Latin square is a set of $k$ cells from distinct rows and distinct columns, containing $k$ distinct symbols.

**Brualdi-Stein Conjecture** states: Every Latin square of order $n$ has a partial transversal of size at least $n - 1$ (equivalently, every Latin square has a transversal with "deficit" at most 1).

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Problems_in_Latin_squares | https://users.monash.edu.au/~iwanless/papers/transurveyBCC.pdf

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-02-12)

Building blocks (1-3; from search results):
- Latin square definitions (as needed for Ryser conjecture)
- Set selection and subset operations (Mathlib)
- Size/cardinality predicates

Missing pieces (exactly 2; unclear/absent from search results):
- Formal definition of partial transversal structure
- Deficit/deficit metric for transversals

Rating justification (1-2 sentences): The infrastructure required is similar to Ryser's conjecture, with additional definitions for partial transversals and the deficit metric. These are straightforward extensions of the Latin square framework but still require moderate additional formalization work.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### LINKED ISSUE #2273: Transversal Count Estimation: Bounds on maximum transversals in Latin squares
### What is the conjecture

 A **Latin square** of order $n$ is an $n \times n$ array with $n$ distinct symbols, each appearing once per row and column. A **transversal** is a set of $n$ cells (one per row, one per column) containing all $n$ distinct symbols.

Let $T(n)$ denote the **maximum number of transversals** in any Latin square of order $n$.

**Transversal Count Estimation Problem**: Establish tight bounds on $T(n)$. It is conjectured that 
$$c^n < T(n) < d \cdot (n!)^n$$
where $c > 1$ is some constant and $d \approx 0.6$. More precisely, it is conjectured that $T(n)$ grows exponentially in $n$, with bounds involving both exponential and factorial growth rates.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Problems_in_Latin_squares | https://users.monash.edu.au/~iwanless/papers/transurveyBCC.pdf

### Prerequisites needed

**Formalizability Rating:** 4/5 (0 is best) (as of 2026-02-12)

Building blocks (1-3; from search results):
- Latin square and transversal definitions (from prior conjectures)
- Counting and enumeration (Mathlib Fintype, Nat)
- Exponential and factorial functions (Mathlib)

Missing pieces (exactly 2; unclear/absent from search results):
- Formal statement of $T(n)$ as a maximum over the set of all Latin squares
- Framework for stating asymptotic bounds (exponential vs. factorial growth)

Rating justification (1-2 sentences): This problem builds on Latin square infrastructure but adds a quantification over all Latin squares of a given order and requires asymptotic/bound notation. Expressing the conjecture formally requires defining a space of Latin squares and an optimization property, which is more involved than the prior conjectures.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by rao107**
Closes #2270. Closes #2271. Closes #2273.

Adds four conjectures about latin squares, one theorem, and adds five TODO items for other related conjectures found in [this survey](https://users.monash.edu.au/~iwanless/papers/transurveyBCC.pdf). There is a bit of overlap with the [Wikipedia page](https://en.wikipedia.org/wiki/Problems_in_Latin_squares). I put all of these in one PR here since these conjectures all depend on the same definitions of latin squares.

I used Claude Code (Sonnet 4.6) extensively in this PR but I vouch for all the code that I submit. (I'm really pleased with how Claude defined latin squares through injectivity rather than constructing a Finset! :slightly_smiling_face:)

### CODE REVIEW

File: FormalConjectures/Paper/LatinSquare.lean [hunk 1]
```diff
@@ -0,0 +1,132 @@
...
+  Surveys in Combinatorics 2011, R. Chapman, Ed. Cambridge University Press, 2011, pp. 403–437.
+  https://users.monash.edu.au/~iwanless/papers/transurveyBCC.pdf
+* https://en.wikipedia.org/wiki/Problems_in_Latin_squares
+-/
+
+variable {n : ℕ}
+
+/--
+Conjecture 3.2 in [Wa2011]:
+Each latin square of odd order has at least one transversal.
```
Comment (mo271) [inline FormalConjectures/Paper/LatinSquare.lean]:
```suggestion
Each Latin square of odd order has at least one transversal.
```
perhaps capitilise throughout, like int the module docstring?

File: FormalConjectures/Paper/LatinSquare.lean [hunk 2]
```diff
@@ -0,0 +1,132 @@
...
+-/
+@[category research open, AMS 5]
+theorem oddOrderLatinSquareTransversal : answer(sorry) ↔
+    Odd n → ∀ (L : LatinSquare n), ∃ σ, IsTransversal L σ := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Paper/LatinSquare.lean:40]: It'd be nice to also have a `research open` statement for the first open case (is this $11$)
In the paper we can read "This conjecture is known [94] to be true for n <= 9"
that should be added as `research solved` statement and it should be possible what is the smallest odd number where this is not known.

File: FormalConjectures/Paper/LatinSquare.lean [hunk 3]
```diff
@@ -0,0 +1,132 @@
...
+    simp only [Matrix.transpose_apply, Matrix.of_apply] at h; exact add_right_cancel h
+}
+
+/--
+Conjecture 6.7 in [Wa2011]:
+There exist real constants $0 < c_1 < c_2 < 1$ such that
+$$
+c_1^n n! \leq z_n \leq c_2^n n!
+$$
+for all odd $n \leq 3$.
```
Comment (mo271) [inline FormalConjectures/Paper/LatinSquare.lean]:
```suggestion
for all odd $n \geq 3$.
```

File: FormalConjectures/Paper/LatinSquare.lean [hunk 4]
```diff
@@ -0,0 +1,132 @@
...
+-/
+@[category research open, AMS 5]
+theorem numTransversalsZn : answer(sorry) ↔
+    ∀ n > 3, Odd n → ∃ᵉ (c₁ > (0 : ℝ)) (c₂ < (1 : ℝ)) (c₁ < c₂),
+      (z n : ℝ) ∈ Set.Icc (c₁ ^ n * n.factorial) (c₂ ^ n * n.factorial) := by
```
Comment (mo271) [inline FormalConjectures/Paper/LatinSquare.lean]:
```suggestion
      ∃ᵉ (c₁ > (0 : ℝ)) (c₂ < (1 : ℝ)) (_ : c₁ < c₂),
      ∀ n > 3, Odd n →
        (z n : ℝ) ∈ Set.Icc (c₁ ^ n * n.factorial) (c₂ ^ n * n.factorial) := by
```

The order of the quantifier must be this way around, right?!

File: FormalConjectures/Paper/LatinSquare.lean [hunk 5]
```diff
@@ -0,0 +1,132 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Conjectures about Latin Squares
+
+This file formalizes some conjectures and theorems around latin squares.
+
+*References:*
+* [Wa2011] Wanless, Ian. "Transversals in latin squares: a survey."
```
Comment (mo271) [inline FormalConjectures/Paper/LatinSquare.lean]:
```suggestion
* [Wa2011] Wanless, Ian. "Transversals in Latin Squares: A Survey."
```

File: FormalConjectures/Paper/LatinSquare.lean [hunk 6]
```diff
@@ -0,0 +1,132 @@
...
+
+/-- The number of transversals of the Cayley table of the cyclic group $\mathbb{Z}_n$ -/
+def z (n : ℕ) : ℕ := numTransversals {
+  mat := Matrix.of fun i j : Fin n => i + j
+  row_injective := fun i _a _b h => by
+    simp only [Matrix.of_apply] at h; exact add_left_cancel h
+  col_injective := fun j _a _b h => by
+    simp only [Matrix.transpose_apply, Matrix.of_apply] at h; exact add_right_cancel h
+}
+
```
Comment (mo271) [inline FormalConjectures/Paper/LatinSquare.lean:81]:
```suggestion

/-- The $0 \times 0$ Cayley table has exactly $1$ transversal (vacuously). -/
@[category test, AMS 5]
theorem z_zero : z 0 = 1 := by native_decide

/-- The number of transversals of the Cayley table of $\mathbb{Z}_n$ for odd $n$ forms
[OEIS A006717](https://oeis.org/A006717), starting with
$z(1) = 1, z(3) = 3, z(5) = 15, z(7) = 133$. -/
@[category test, AMS 5]
theorem z_odd_values : [z 1, z 3, z 5, z 7] = [1, 3, 15, 133] := by native_decide

/-- The Cayley table of $\mathbb{Z}_n$ for positive even $n$ has no transversals. -/
@[category undergraduate, AMS 5]
theorem z_even (n : ℕ) : z (2 * (n + 1)) = 0 := by
  sorry

```
Some ideas for testing the the definition of `z` is good, let's add them?!

File: FormalConjectures/Paper/LatinSquare.lean (hunk 1 above)
Comment (rao107) [reply FormalConjectures/Paper/LatinSquare.lean]: The survey didn't capitalize "latin" in the text but after some cursory searching, it seems that it's capitalized more often than it isn't

File: FormalConjectures/Paper/LatinSquare.lean (hunk 6 above)
Comment (rao107) [reply FormalConjectures/Paper/LatinSquare.lean:81]: Oh this is really nice, tysm!

File: FormalConjectures/Paper/LatinSquare.lean (hunk 4 above)
Comment (rao107) [reply FormalConjectures/Paper/LatinSquare.lean]: Oh! ty for catching!

**Comment by rao107** [comment]
Ty for the comments! And yeah, I want to add the rest later. I think they just need a couple more definitions which I should be able to take care of
